US09145370B2
N-Methyl-3,5-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester (0.5 g, 2.0 mmol) in ethanol (3 ml) was admixed gradually with an 8N aqueous sodium hydroxide solution (0.8 ml) and stirred at room temperature for 2 h. The solvent was removed by rotary evaporation; the residue was taken up in water (10 ml) and extracted with diethyl ether (10 ml). Acidification to pH 1 with 6M HCl was followed by extraction with ethyl acetate (3×10 ml). The combined organic phases were dried over sodium sulphate and filtered, and the solvent was removed by rotary evaporation. N-Methyl-3,5-difluoromethyl-4 pyrazolecarboxylic acid (0.44 g, 1.95 mmol, 97%) was isolated as a colourless solid.

reactant | N-Methyl-3,5-difluoromethyl-4-pyrazolecarboxylic acid ethyl ester | 2.0 mmol, 0.5 g | C(C)OC(=O)C=1C(=NN(C1CF)C)CF | C9H12F2N2O2
reactant | sodium hydroxide | 8N, 0.8 ml | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-Methyl-3,5-difluoromethyl-4 pyrazolecarboxylic acid | 1.95 mmol, 0.44 g, 97% | CN1N=C(C(=C1CF)C(=O)O)CF | C7H8F2N2O2
